US05025031
Sulfamic acid 2-[3-(phenylmethoxy)phenoxy]ethyl ester.
This compound was prepared according to the procedure used in Example 101. Thus, a mixture of 14.7 g (0.06 mole) of 2-(3-benzyloxyphenoxy)ethanol, 17 ml (0.066 mole) of sulfamoyl chloride (3.9 M solution in acetonitrile) and 7.0 g (0.069 mole) of triethylamine in 150 ml of acetonitrile gave a viscous, oily residue. The oil was triturated with benzene-petroleum ether (30°-60° C.) and the solid was collected by filtration. The solid was recrystallized from chloroform to yield 8.6 g (44%) of a white solid, mp 107°-109° C.

reactant | 2-(3-benzyloxyphenoxy)ethanol | 0.06 mole, 14.7 g | C(C1=CC=CC=C1)OC=1C=C(OCCO)C=CC1 | C15H16O3
reactant | sulfamoyl chloride | 0.066 mole, 3.9 M, 17 ml | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 0.069 mole, 7.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Sulfamic acid 2-[3-(phenylmethoxy)phenoxy]ethyl ester | 8.6 g, 44% | C1(=CC=CC=C1)COC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C15H17NO5S
